US07691877B2
1-benzyl-7-bromo-4-dibenzylamino-1,3-dihydro-imidazo[4,5,c]pyridine-2-one
1-benzyl-4-dibenzylamino-1,3-dihydro-imidazo[4,5,c]pyridine-2-one (1 g, 2.4 mmol) was suspended in 20 mL of acetic acid then sodium acetate (195 mg, 2.4 mmol) was added followed by bromine (456 mg, 2.85 mmol) dropwise. The mixture was stirred at room temperature for 15 minutes. A heavy precipitate was formed. The mixture was diluted in water (50 mL) and the solid was filtered and washed with water. It was then diluted in ethyl acetate (20 mL), dried over magnesium sulfate and the solvent was removed in vacuo to give 1.29 g of the title compound as a light orange solid.

reactant | 1-benzyl-4-dibenzylamino-1,3-dihydro-imidazo[4,5,c]pyridine-2-one | 2.4 mmol, 1 g | C(C1=CC=CC=C1)N1C(NC=2C(=NC=CC21)N(CC2=CC=CC=C2)CC2=CC=CC=C2)=O | C27H24N4O
reactant | sodium acetate | 2.4 mmol, 195 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 2.85 mmol, 456 mg | BrBr | Br2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
product | 1-benzyl-7-bromo-4-dibenzylamino-1,3-dihydro-imidazo[4,5,c]pyridine-2-one | 1.29 g | C(C1=CC=CC=C1)N1C(NC=2C(=NC=C(C21)Br)N(CC2=CC=CC=C2)CC2=CC=CC=C2)=O | C27H23BrN4O
